2152-09-14 12:30:00 Physician Attending Progress Note
Chief Complaint: Alert, c/o some anxiety
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2152-9-13**] 03:42 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Erythromycin Base
   Unknown;
   Indomethacin
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2152-9-13**] 12:44 PM
   Hydralazine - [**2152-9-13**] 04:47 PM
   Pantoprazole (Protonix) - [**2152-9-14**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2152-9-14**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema,
   Tachycardia, No(t) Orthopnea
   Respiratory: Tachypnea
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-9-14**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 76 (76 - 92) bpm
   BP: 124/43(65) {110/36(58) - 142/51(76)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96 kg (admission): 103 kg
   Height: 66 Inch
   CVP: 9 (3 - 15)mmHg
   Total In:
                                                                  5,015 mL
                                                                    293 mL
   PO:
                                                                    220 mL
   TF:
                                                                    335 mL
   IVF:
                                                                  4,421 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  6,628 mL
                                                                     50 mL
   Urine:
                                                                     15 mL
                                                                     50 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                 -1,613 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 453 (453 - 453) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.38/42/85.[**Numeric Identifier 128**]/22/0
   Ve: 12.3 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   holosystolic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Diminished: on R), scattered crackels
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   116 K/uL
   109 mg/dL
   4.1 mg/dL
   22 mEq/L
   3.8 mEq/L
   33 mg/dL
   99 mEq/L
   137 mEq/L
   26.7 %
   17.7 K/uL
        [image002.jpg]
                             [**2152-9-13**]  08:41 AM
                             [**2152-9-13**]  08:53 AM
                             [**2152-9-13**]  02:06 PM
                             [**2152-9-13**]  02:17 PM
                             [**2152-9-13**]  03:17 PM
                             [**2152-9-13**]  04:51 PM
                             [**2152-9-13**]  05:58 PM
                             [**2152-9-13**]  11:14 PM
                             [**2152-9-14**]  02:10 AM
                             [**2152-9-14**]  02:33 AM
   WBC
   17.7
   Hct
   26.7
   Plt
   116
   Cr
   3.0
   2.6
   4.1
   TCO2
   24
   25
   24
   24
   24
   24
   26
   Glucose
   169
   134
   109
   Other labs: PT / PTT / INR:19.6/33.2/1.8, ALT / AST:19/25, Alk Phos / T
   Bili:104/1.8, Amylase / Lipase:29/40, Differential-Neuts:83.5 %,
   Band:0.0 %, Lymph:10.0 %, Mono:6.2 %, Eos:0.1 %, Lactic Acid:1.7
   mmol/L, Albumin:4.4 g/dL, LDH:181 IU/L, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 MITRAL REGURGITATION (MITRAL INSUFFICIENCY)
 CIRRHOSIS OF LIVER, OTHER
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE
   Now down to nc at 3lpm. Still do not have a good explanation for her
   respiratory failure - sequence of  events was respiratory/renal failure
   after TIPS. When intubated she appeared to be in pulmonary edema/ ARDS
   but her response has been faster than expected and all we have done is
   start hydralazine and remove fluid by CVVH.  Multiple sputums,
   including BAL are notable not only for no growth but not even many
   WBC.  Remains low grade febrile w/o a source.  We are converting to sq
   insulin, adding a standing anxiolytic, starting intermittent HD.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2152-9-12**] 01:24 PM
   Multi Lumen - [**2152-9-12**] 01:25 PM
   Dialysis Catheter - [**2152-9-12**] 08:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill